US07244843B2
Step B. Preparation of (R)-1-benzyl-3-(4-bromo-benzyl)-piperazine
To (R)-1-benzyl-3-(4-bromo-benzyl)-piperazine-2,5-dione (0.5 g, 1.34 mmol) in THF (10 mL) was added 2M BH3SMe2 (2.68 mL, 5.36 mmol). The mixture was stirred in RT under argon for 4 days; more 2M BH3SMe2 (2.68 mL, 5.36 mmol) was added and stirred for 3 days. Reaction mixture was quenched with EtOH (3 mL) and removed the solvent in rotavap, added EtOH (5 mL) and stirred at 70° C. for 2 hr and concentrated to give colorless oil as a crude product. MS (ESI) 345 (M+H).

reactant | (R)-1-benzyl-3-(4-bromo-benzyl)-piperazine-2,5-dione | 1.34 mmol, 0.5 g | C(C1=CC=CC=C1)N1C([C@H](NC(C1)=O)CC1=CC=C(C=C1)Br)=O | C18H17BrN2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-1-benzyl-3-(4-bromo-benzyl)-piperazine | C(C1=CC=CC=C1)N1C[C@H](NCC1)CC1=CC=C(C=C1)Br | C18H21BrN2
